US09062070B2
Step G: 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid
Trimethylsilyl trifluoroacetate (1.5 mL, 8.7 mmol) was added to a suspension of 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid (845 mg, 4.72 mmol) in ethyl acetate (10 mL). A solution was obtained but a precipitate formed within 5 minutes. The reaction mixture was stirred at RT for 5 minutes and triethyl orthoformate (1.4 mL, 8.4 mmol) was added. The mixture was stirred at RT for 5 minutes and azidotrimethylsilane (1.1 mL, 8.4 mmol) was added. The resulting suspension was stirred at RT overnight. The solvent was evaporated. The residue was purified by chromatography on silica gel (80 g cartridge) using CH2Cl2 (A) and CH2Cl2:MeOH:AcOH 90:10:1 (B) with gradient elution (100% A to 100% B over 16 column volumes) to afford crude product which was further purified by preparative HPLC to afford the title compound: NMR 500 MHz (CD3OD) 10.00 (s, 1H); 8.88 (s, 1H); 4.32 (t, 1H); 3.11-3.15 (m, 2H); 2.47-2.63 (m, 2H); LC/MS (M+Na)+ at 255, (M+1)+ at 233, (M+1-N2)+ at 205.

reactant | Trimethylsilyl trifluoroacetate | 8.7 mmol, 1.5 mL | FC(C(=O)O[Si](C)(C)C)(F)F | C5H9F3O2Si
reactant | 2-amino-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid | 4.72 mmol, 845 mg | NC=1N=CC2=C(N1)CCC2C(=O)O | C8H9N3O2
reactant | triethyl orthoformate | 8.4 mmol, 1.4 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | azidotrimethylsilane | 8.4 mmol, 1.1 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine-5-carboxylic acid | N1(N=NN=C1)C=1N=CC2=C(N1)CCC2C(=O)O | C9H8N6O2
